US07547691B2
2-{5-Chloro-2-[3-(2,4,6-trimethylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride
Using the method of 2-{5-chloro-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride, the title compound is synthesized from 2-{5-chloro-2-[3-(2,6-cis-dimethylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide as a yellow solid. ES+(m/z) 513 (35Cl) and 515 (37Cl) [M(free base)+H].

reactant | 2-{5-chloro-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride | Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCC2CCN(CC2)C
reactant | 2-{5-chloro-2-[3-(2,6-cis-dimethylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCN2[C@H](CNC[C@H]2C)C | C25H31ClN6OS
product | 2-{5-Chloro-2-[3-(2,4,6-trimethylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride | Cl.Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCN2C(CN(CC2C)C)C | InChI=1S/C26H33ClN6OS.3ClH/c1-16-14-32(3)15-17(2)33(16)11-5-10-28-26-29-13-21(27)24(31-26)23-12-20-19(6-4-7-22(20)35-23)25(34)30-18-8-9-18;;;/h4,6-7,12-13,16-18H,5,8-11,14-15H2,1-3H3,(H,30,34)(H,28,29,31);3*1H
